US07598248B2
(S,E)-1-(1-phenylethyl)-6-(prop-1-enyl)-1H-imidazo[4,5-b]pyrazin-2-ol.
A thick-walled microwave bottle equipped with a stirbar was charged with (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol (1.0 equiv), and (Ph3P)4Pd (0.12 equiv). The bottle was covered with a sheet of Parafilm and purged with nitrogen for 5 min, and N-methylpyrrolidone (14 volume equivalents), triethyl amine (2.0 equiv), and (E)-tributyl(prop-1-enyl)stannane (3.0 equiv) were added by syringe. The resulting mixture was immediately fitted with a septum and cap and heated to 120° C. in a microwave for 20 min. The reaction was then diluted with EtOAc, washed four times with saturated aq. NaHCO3 and once with brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Reverse-phase preparative HPLC provided the title compound (54%) as a foam. LCMS m/z (APCI)=281.1 (M+H).

reactant | (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol | 1.0 equiv | BrC1=CN=C2C(=N1)N(C(=N2)O)[C@@H](C)C2=CC=CC=C2 | C13H11BrN4O
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | triethyl amine | 2.0 equiv | C(C)N(CC)CC | C6H15N
reactant | (E)-tributyl(prop-1-enyl)stannane | 3.0 equiv | C(CCC)[Sn](\C=C\C)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | (Ph3P)4Pd | 0.12 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S,E)-1-(1-phenylethyl)-6-(prop-1-enyl)-1H-imidazo[4,5-b]pyrazin-2-ol | 54% | C1(=CC=CC=C1)[C@H](C)N1C(=NC=2C1=NC(=CN2)\C=C\C)O | C16H16N4O
